US08729102B2
N-[(1S)-2-({5-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-4-fluoro-1-methyl-1H-pyrazol-3-yl}oxy)-1-methylethyl]acetamide
A mixture of N-[(1S)-2-({5-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-1-methyl-1H-pyrazol-3-yl}oxy)-1-methylethyl]acetamide (193 mg), 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane ditetrafluoroborate (427 mg) and acetonitrile (10 mL) was stirred at 60° C. for 7 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (11.2 mg).

reactant | N-[(1S)-2-({5-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-1-methyl-1H-pyrazol-3-yl}oxy)-1-methylethyl]acetamide | 193 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=CC(=NN2C)OC[C@H](C)NC(C)=O)C=C1 | C20H24N4O4
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane ditetrafluoroborate | 427 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | N-[(1S)-2-({5-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-4-fluoro-1-methyl-1H-pyrazol-3-yl}oxy)-1-methylethyl]acetamide | 11.2 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=C(C(=NN2C)OC[C@H](C)NC(C)=O)F)C=C1 | C20H23FN4O4
